US03996361
N6 -n-Propyl-9-[3-(4-phenyl-piperazino)-propyl]-adenine.
N6 -isopropyl-9-{3-[4-(4-fluorophenyl)-piperazino]-propyl}-adenine from 6-chloro-9-{3-[4-(4-fluorophenyl)-piperazino]-propyl}-purine and isopropylamine; yield 58% of theory; m.p. of the dihydrochloride 232°-233° C after recrystallization from methanol.

reactant | N6 -isopropyl-9-{3-[4-(4-fluorophenyl)-piperazino]-propyl}-adenine | C(C)(C)NC1=C2N=CN(C2=NC=N1)CCCN1CCN(CC1)C1=CC=C(C=C1)F | C21H28FN7
reactant | 6-chloro-9-{3-[4-(4-fluorophenyl)-piperazino]-propyl}-purine | ClC1=C2N=CN(C2=NC=N1)CCCN1CCN(CC1)C1=CC=C(C=C1)F | C18H20ClFN6
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N6 -n-Propyl-9-[3-(4-phenyl-piperazino)-propyl]-adenine | yield 58% | C(CC)NC1=C2N=CN(C2=NC=N1)CCCN1CCN(CC1)C1=CC=CC=C1 | C21H29N7
